US08426411B2
A mixture of butyl 1-methylcyclopropane-1-sulfonate (0.80 g, 4.2 mmol) and potassium thiocyanate (0.404 g, 4.16 mmol) in 1,4-dioxane/water (1:1, 10 mL) was heated at reflux for about 8 h. The reaction was cooled to ambient temperature and the solvents were concd under reduced pressure to yield crude potassium 1-methylcyclopropane-1-sulfonate which was suspended in thionyl chloride (7 mL). DMF (0.05 mL) was added and the mixture was heated at reflux for about 8 h and then cooled. The volatiles were removed under reduced pressure and the residue was dissolved in DCM (20 mL), washed with water (15 mL), dried over anhydrous MgSO4 and concd under reduced pressure to yield 1-methylcyclopropane-1-sulfonyl chloride (0.56 g, 86%) as a yellow oil. 1H NMR (DMSO-d6) δ 1.82 (br s, 2H), 1.79 (s, 3H), 1.15 (m, 2H).

reactant | butyl 1-methylcyclopropane-1-sulfonate | 4.2 mmol, 0.80 g | CC1(CC1)S(=O)(=O)OCCCC | C8H16O3S
reactant | potassium thiocyanate | 4.16 mmol, 0.404 g | [S-]C#N.[K+]
solvent | 1,4-dioxane water | 10 mL | O1CCOCC1.O
product | potassium 1-methylcyclopropane-1-sulfonate | CC1(CC1)S(=O)(=O)[O-].[K+] | InChI=1S/C4H8O3S.K/c1-4(2-3-4)8(5,6)7;/h2-3H2,1H3,(H,5,6,7);/q;+1/p-1
